US04128648
A. Tetrahydro-3,5-bis[(3,4,5-trimethoxyphenyl)methylene]-4H-pyran-4-one
A solution of 6.0 g (0.06 mole) of tetrahydro-4H-pyran-4-one and 25 g (0.127 mole) of 3,4,5-trimethoxybenzaldehyde in 75 ml of EtOH and 10 ml of concentrated HCl is stirred and heated at reflux for 3 hours. The product gradually precipitates from the cooled solution. The yield of yellow crystals is 12.0 g (44%), m.p. 187°-189°.

reactant | tetrahydro-4H-pyran-4-one | 0.06 mole, 6.0 g | O1CCC(CC1)=O | C5H8O2
reactant | 3,4,5-trimethoxybenzaldehyde | 0.127 mole, 25 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
solvent | EtOH | 75 ml | CCO | C2H6O
solvent | HCl | 10 ml | Cl | ClH
product | Tetrahydro-3,5-bis[(3,4,5-trimethoxyphenyl)methylene]-4H-pyran-4-one | COC=1C=C(C=C(C1OC)OC)C=C1COCC(C1=O)=CC1=CC(=C(C(=C1)OC)OC)OC | C25H28O8
